US07419984B2
To a solution of 2-(4-amino-phenyl)-malonic acid diethyl ester (450 mg, 1.8 mmol) in anhydrous ether (20 ml), cooled at 0-10° C., was added lithium aluminum hydride (68 mg, 1.8 mmol). After stirring at room temperature for 2 hours, the reaction was cooled to 10° C. and quenched by the addition of hydrated sodium sulfate (2 g). The mixture was filtered and the solid was rinsed with tetrahydrofuran (10 ml). The combined filtrates were concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with 20% methanol-chloroform to provide 2-(4-amino-phenyl)-propane-1,3-diol (52 mg, 17% yield).

reactant | 2-(4-amino-phenyl)-malonic acid diethyl ester | 1.8 mmol, 450 mg | C(C)OC(C(C(=O)OCC)C1=CC=C(C=C1)N)=O | C13H17NO4
reactant | lithium aluminum hydride | 1.8 mmol, 68 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2-(4-amino-phenyl)-propane-1,3-diol | 52 mg, 17% yield | NC1=CC=C(C=C1)C(CO)CO | C9H13NO2
